US06573397B2
hydrolyzing 2-chloro-benzo[1,3]dioxole-5-carbonitrile by contacting it with water to produce 3,4-dihydroxybenzonitrile.

reactant | 2-chloro-benzo[1,3]dioxole-5-carbonitrile | ClC1OC2=C(O1)C=CC(=C2)C#N | C8H4ClNO2
solvent | water | O | H2O
product | 3,4-dihydroxybenzonitrile | OC=1C=C(C#N)C=CC1O | C7H5NO2
